US07585880B2
ethyl 3-{2-fluoro-4-[(4-{[(4-phenyl-1,3-thiazol-2-yl) (2-pyridin-2-ylethyl)amino]methyl}benzyl)oxy]phenyl}-propanoate
The title compound was synthesized in the same manner as in Example 8 from (4-{[(4-phenyl-1,3-thiazol-2-yl)(2-pyridin-2-ylethyl)amino]methyl}phenyl)methanol and ethyl 3-(2-fluoro-4-hydroxyphenyl)propanoate by Mitsunobu reaction (yield 41%). Yellow oil.

reactant | (4-{[(4-phenyl-1,3-thiazol-2-yl)(2-pyridin-2-ylethyl)amino]methyl}phenyl)methanol | C1(=CC=CC=C1)C=1N=C(SC1)N(CCC1=NC=CC=C1)CC1=CC=C(C=C1)CO | C24H23N3OS
reactant | ethyl 3-(2-fluoro-4-hydroxyphenyl)propanoate | FC1=C(C=CC(=C1)O)CCC(=O)OCC | C11H13FO3
product | ethyl 3-{2-fluoro-4-[(4-{[(4-phenyl-1,3-thiazol-2-yl) (2-pyridin-2-ylethyl)amino]methyl}benzyl)oxy]phenyl}-propanoate | yield 41% | FC1=C(C=CC(=C1)OCC1=CC=C(C=C1)CN(CCC1=NC=CC=C1)C=1SC=C(N1)C1=CC=CC=C1)CCC(=O)OCC | C35H34FN3O3S
